US08470860B2
4-Methanesulfonyloxy-benzenesulfonic acid sodium salt (TJA01125)
4-Hydroxybenzenesulfonic acid sodium salt dihydrate (11.6 g, 50.0 mmol) and sodium hydroxide (2.00 g, 50.0 mmol) were dissolved in distilled water (50 mL) and the solution cooled to 0° C. Methane sulfonyl chloride (4.25 mL, 55.0 mmol) was added dropwise with stirring and the mixture then allowed to warm to room temp. and left for 2 h. Brine (20 mL) was added and the solution left to stand for 1 h with the formation of white crystalline solid. The solids were filtered, recrystallised (brine), and dried under vacuum to give the title compound as a white crystalline solid (7.81 g, 57%),

reactant | 4-Hydroxybenzenesulfonic acid sodium salt dihydrate | 50.0 mmol, 11.6 g | O.O.[Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | sodium hydroxide | 50.0 mmol, 2.00 g | [OH-].[Na+]
reactant | Methane sulfonyl chloride | 55.0 mmol, 4.25 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 50 mL | O | H2O
solvent | Brine | 20 mL | [Cl-].[Na+].O
product | 4-Methanesulfonyloxy-benzenesulfonic acid sodium salt | 7.81 g, 57% | [Na+].CS(=O)(=O)OC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C7H8O6S2.Na/c1-14(8,9)13-6-2-4-7(5-3-6)15(10,11)12;/h2-5H,1H3,(H,10,11,12);/q;+1/p-1
